US08754107B2
To (2S)-2-((3R)-3-amino-2-methylpyrrolidin-1-yl)-2-phenylethanol (3.14 g, 14.25 mmol) in THF (30 mL) was added BOC anhydride (3.31 mL, 14.2 mmol) and triethylamine (3.97 mL, 28.5 mmol). After stirring at room temperature for about 4 hours the solvent was removed in vacuo. The residue was purified on by silica gel column chromatography eluting with 0-5% MeOH/EtOAc to afford tert-butyl (3R)-1-((S)-2-hydroxy-1-phenylethyl)-2-methylpyrrolidin-3-ylcarbamate (1.75 g, 5.46 mmol) as a mixture of diastereomers. RP-HPLC (Table 1, Method a) Rt 1.50 min; m/z: (M+H)+ 321.

reactant | (2S)-2-((3R)-3-amino-2-methylpyrrolidin-1-yl)-2-phenylethanol | 14.25 mmol, 3.14 g | N[C@H]1C(N(CC1)[C@H](CO)C1=CC=CC=C1)C | C13H20N2O
reactant | BOC anhydride | 14.2 mmol, 3.31 mL | CC(C)(C)OC(=O)OC(=O)OC(C)(C)C | C10H18O5
reactant | triethylamine | 28.5 mmol, 3.97 mL | C(C)N(CC)CC | C6H15N
solvent | THF | 30 mL | C1CCOC1 | C4H8O
product | tert-butyl (3R)-1-((S)-2-hydroxy-1-phenylethyl)-2-methylpyrrolidin-3-ylcarbamate | 5.46 mmol, 1.75 g | OC[C@H](C1=CC=CC=C1)N1C([C@@H](CC1)NC(OC(C)(C)C)=O)C | C18H28N2O3
